US09216911B2
Synthesis of Cyclohexylpyrrolidine
In some instances when some unreacted cyclohexanone is still in the reaction mixture, the product after hydrogenation was purified by adding 3M HCl solution to the mixture (after filtering out the palladium/carbon catalyst) and left to stir for 15-20 minutes. The resulting mixture is then extracted with diethyl ether to remove the cyclohexanone from the mixture and leaving behind the cyclohexylpyrrolidinium hydrochloride salt. The water layer containing cyclohexylpyrrolidinium hydrochloride salt is separated and then neutralized with NaOH solution to a pH of 9-10. The free cyclohexylpyrrolidine is extracted with ethyl acetate, dried over MgSO4 and concentrated on a rotary evaporator at reduced pressure to give the desired product free from any impurities.

reactant | cyclohexylpyrrolidinium hydrochloride salt | Cl.C1(CCCCC1)[NH+]1CCCC1
solvent | water | O | H2O
product | Cyclohexylpyrrolidine | C1(CCCCC1)N1CCCC1 | C10H19N
